Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Timoptic
 
Attending: ___.
 
Chief Complaint:
Metastatic melanoma
 
Major Surgical or Invasive Procedure:
left axillary lymphadenectomy, resection left cervical node.
 
History of Present Illness:
Mr. ___ is an ___ old with history of recurrent 
metastatic melanoma who presents for left axillary 
lymphadenectomy, resection left cervical node.

His oncologic history dates back to ___, where he underwent 
a shave biopsy of an abdominal lesion consistent with melanoma 
___ Level IV. He also underwent wide resection in ___. Pathology was consistent with radial growth melanoma. 
Axillary sentinel node negative for melanoma. He also underwent 
excision of left shoulder lesion, which was negative for 
malignancy.In ___ he underwent multiple excisions of small 
skin lesions, none consistent with melanoma. He continued to 
have surveillance with his local dermatologist from ___. 
More recently, Mr. ___ in ___ noticed an 
unintentional weight loss of ~40-50 lbs over the past year. His 
PCP obtained CT ___ which showed a bulky left 
axillary and supraclavicular adenopathy, as well as likely 
multiple live hemangiomas. He was referred to ___ 
___ and seen by Dr. ___.
On ___ he underwent PET-CT FDG-avid left axillary 
adenopathy and level IV cervical node. Liver lesions without 
FDG-avidity. Hypermetabolic thyroid gland.On ___ he 
underwent a biopsy of left axillary lymph node revealed path and 
IHC consistent with melanoma. BRAF mutation status testing sent. 
Flow-cytometry negative for leukemia/lymphoma. He was referred 
to ___ given previous treatments here for melanoma. On ___ he underwent a thyroid US with showed multiple 
thyroid nodules, left lower pole nodules, requiring repeat US. 
On ___, a neck CT scan performed here again showed 
the 2.8 cm left supraclavicular lymph node, which seems to be 
above the level of the clavicle.  He had a 1.7 cm left thyroid 
nodule of uncertain significance

 
Past Medical History:
PMH: Stage 1B (T1b/N0) left abdominal melanoma (resected - 
___, multiple left upper extremity SCCs, glaucoma, 
hypertension, hypothyroidism, remote SVT following a left 
arthroscopic knee procedure.

PSH: WLE left abdominal melanoma and negative left axillary 
SLNB, excision left shoulder SCC ___ - ___, left upper arm 
SCC excised (___), left forearm SCC excised (___), excision 
right hand SCC, nasal Mohs procedure in ___, remote left knee 
arthroscopy, partial thyroidectomy (denied cancer), 
cholecystectomy, pilonidal sinus excision, cataract extraction

 
Social History:
___
Family History:
There is no known family history of cancer,specifically 
melanoma.  Both his mother and father died of heartdisease.  One 
sister died of coronary artery disease.  
 
Physical Exam:
General: Alert, oriented,no acute distress
Cardiac: regular rate rhythm
Pulmonary: clear
Abdomen: soft, NT/ND
Incision: c/d/I, JP drain serosanguineous
Extremities: warm well perfused, no ___ edema

 
Brief Hospital Course:
___ with recurrent metastatic melanoma to left axilla, now s/p 
left axillary lymphadenectomy, resection left cervical node. The 
procedure was without complications. He was admitted overnight 
to the surgical ward for observation and hospital course was 
stable. 
Postoperatively, he had good pain control and was transitioned 
to oral pain medications. His diet was advanced as tolerated and 
fluids were discontinued. Postoperatively he voided and was 
given Flomax for PVR 300; thereafter his urination improved. His 
surgical site dressings remained intact without any signs of 
infection; JP drain was exuding acceptable amounts of serous 
sanguineous drainage. Patient was discharged home on POD 1,with 
___ for JP drain care and will follow-up with Dr. ___ in 
clinic.
 
Medications on Admission:
___: amiloride 5', HCTZ 50', Synthroid ___, etodolac 400", 
travatan eyedrops both eyes BID, aspirin 81', 
brinzolamide-brimonidine [Simbrinza] R eye BID 

 
Discharge Medications:
1. Amiloride HCl 5 mg PO DAILY 
2. Hydrochlorothiazide 50 mg PO DAILY 
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. TraMADOL (Ultram) 25 mg PO Q6H:PRN pain 
Do not drive. Take for post-operative pain.  
RX *tramadol 50 mg 1 tablet(s) by mouth Every 6 hours Disp #*30 
Tablet Refills:*0
5. Travatan Z (travoprost) 1 DROP ___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Status post axillary node dissection for melanoma. 

 
Discharge Condition:
Clear and coherent 
Alert and interactive  
Ambulatory - Independent 

 
Discharge Instructions:
Mr. ___, 

You were admitted to the hospital for axilary node dissection 
for your melanoma treatment. 

You are now ready to be discharged home. Please follow these 
instructions to ensure a good recovery. 

You are being discharged home with a drain, which will remain in 
place for a week or so to drain any fluid accumulating in your 
axilla. You will have a visiting nurse to help you with drain 
care but given the holidays you and your family will have to 
care for the drain for a few days. 
ACTIVITY:
You may resume your regular activity as tolerated. Avoid 
vigorous upper body activity for ___ weeks. Avoid heavy lifting 
for ___ weeks. Otherwise you may return to regular activities as 
your pain level subsides. You may notice some numbness in the 
axilla our the side of your chest under the arm but this should 
resolve with time as the swelling and irritation after the 
surgery subsides. 

DIET
You may resume your regular diet without any restrictions. 

MEDICATIONS
You are given a prescription for pain medication called 
TRAMADOL. Take this medication for severe pain in addition to 
taking Tylenol. Most people do very well by taking 500 mg of 
regular strength Tylenol every 6 hours, then adding TRAMADOL as 
needed for any breakthrough pain. Medicines like TRAMADOL can 
make You feel drowsy or nauseated. Take them as needed and with 
foods to reduce the nausea. Do not drive or operate machinery 
while taking this medication. 

INCISION CARE
You may shower 48 hours after the surgery. You may remove the 
clear plastic dressing and the white gauze covering the incision 
but not the small strips underneath. Do not rub your incision in 
the shower. Do not submerge incision in water for ___ weeks as 
In bathing or swimming. 

DRAIN CARE
You have a drain in the axilla to drain any fluid collecting in 
the site of three surgery. Do not remove or pull on the drain. 
Record the output from the drain, the color and the amount, 
twice a day. Strip the drain every time you empty it. Call our 
office if the color or the amount of output changes suddenly. 
 
Followup Instructions:
___